US05942516
c) Diethyl 2-(2-methoxy-4,5-methylenedioxybenzyliden)-malonate
A solution of the 2-methoxy-4,5-methylenedioxy benzaldehyde (16.0 g, 0.089 mol), diethyl malonate (15.0 ml, 0.090 mol), piperidine (4.4 ml, 0.044 mol) and acetic acid (2.5 ml, 0.045 mol) in benzene (75 ml) was stirred at reflux, equipped with a Dean-Stark apparatus, for 24 h. Upon removal of the solvent the crude residue was extracted with ethyl acetate and washed with 10% sodium carbonate solution, water, dried (Na2SO4). After removing the solvent, flash chromatography of the residue (silica gel, 25% ethyl acetate/hexane) provided the title compound as a yellow solid (26.0 g, 91%).

reactant | 2-methoxy-4,5-methylenedioxy benzaldehyde | 0.089 mol, 16.0 g | COC1=C(C=O)C=C2C(=C1)OCO2 | C9H8O4
reactant | diethyl malonate | 0.090 mol, 15.0 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.044 mol, 4.4 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.045 mol, 2.5 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | Diethyl 2-(2-methoxy-4,5-methylenedioxybenzyliden)-malonate | 26.0 g, 91% | COC1=C(C=C(C(=O)OCC)C(=O)OCC)C=C2C(=C1)OCO2 | C16H18O7
